### PR TITLE
[Merged by Bors] - feat: add Measure.bind_comm

### PR DESCRIPTION
**Pull request by EtienneC30**
This lemma is primarily intended to replace `PMF.bind_comm` in #42821.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Prod.lean [hunk 1]
```diff
@@ -1073,6 +1073,32 @@ theorem lintegral_prod_mul {f : α → ℝ≥0∞} {g : β → ℝ≥0∞} (hf :
...
 
+lemma _root_.Measurable.measurable_bind {f : α → β → Measure γ} (hf : Measurable f.uncurry) :
+    Measurable (fun a ↦ ν.bind (f a)) := by
+  refine measurable_measure.2 fun s hs ↦ ?_
+  simp_rw [ν.bind_apply hs hf.of_uncurry_left.aemeasurable]
+  apply Measurable.lintegral_prod_left
+  convert measurable_measure.1 (hf.comp measurable_swap) s hs
+  grind
+
+lemma _root_.Measurable.measurable_bind' [SFinite μ] {f : α → β → Measure γ}
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/Prod.lean]: Perhaps `measurable_bind_left` and `measurable_bind_right`?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by ocfnash** [comment]
Thanks!

bors merge
